US07576135B2
2-(4-chloro-2-nitroanilino)-2-oxoacetic acid sodium salt
In a manner similar to that described in Referential Example 242, 4-chloro-2-nitroaniline was condensed with methyl chlorooxoacetate. In a manner similar to that described in Referential Example 266, the condensed compound was hydrolyzed. The residue was dissolved in methanol, 1N aqueous sodium hydroxide was added thereto, and the precipitated material was recoverd by filtration, whereby the title compound was obtained.

reactant | 4-chloro-2-nitroaniline | ClC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | methyl chlorooxoacetate | ClC(C(=O)OC)=O | C3H3ClO3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 2-(4-chloro-2-nitroanilino)-2-oxoacetic acid sodium salt | [Na+].ClC1=CC(=C(NC(C(=O)[O-])=O)C=C1)[N+](=O)[O-] | InChI=1S/C8H5ClN2O5.Na/c9-4-1-2-5(6(3-4)11(15)16)10-7(12)8(13)14;/h1-3H,(H,10,12)(H,13,14);/q;+1/p-1
